US06410483B1
Methyl 2-tert-Butylaminosulfonyl-4-[2-(methoxycarbonylamino)ethyl]benzoate
A solution of 1.45 g (4.6 mmol) of methyl 4-(2-aminoethyl)-2-tert-butylaminosulfonylbenzoate and 0.71 ml (5.1 mmol) of triethylamine in 10 ml of dichloromethane was added dropwise to an ice-cooled solution of 1.31 g (13.8 mmol) of methyl chloroformate in 20 ml of dichloromethane. After 2 h at room temperature, water was added, the phases were separated, and the aqueous phase was re-extracted twice with dichloromethane. The combined organic extracts were washed with water, dried over Na2SO4 and concentrated in vacuo. This gave 1.4 g (81%) of methyl 2-tert-butylaminosulfonyl-4-[2-(methoxycarbonylamino)ethyl]benzoate as a viscous oil.

reactant | methyl 4-(2-aminoethyl)-2-tert-butylaminosulfonylbenzoate | 4.6 mmol, 1.45 g | NCCC1=CC(=C(C(=O)OC)C=C1)S(=O)(=O)NC(C)(C)C | C14H22N2O4S
reactant | triethylamine | 5.1 mmol, 0.71 ml | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 13.8 mmol, 1.31 g | ClC(=O)OC | C2H3ClO2
reactant | water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Methyl 2-tert-Butylaminosulfonyl-4-[2-(methoxycarbonylamino)ethyl]benzoate | C(C)(C)(C)NS(=O)(=O)C1=C(C(=O)OC)C=CC(=C1)CCNC(=O)OC | C16H24N2O6S
